* LVS netlist generated with ICnet by 'bxl1703' on Thu Nov 14 2019 at 21:13:42

*
* Globals.
*
.global VSS VDD

*
* Component pathname : $GDKGATES/aoi21
*
.subckt aoi21  Y A0 A1 B0 VDD_esc1 VSS_esc2

        M_I$11 Y A0 N$2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        M_I$7 Y B0 N$1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        M_I$6 N$1 A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        M_I$5 N$1 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        M_I$4 Y B0 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
        M_I$12 N$2 A1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
.ends aoi21

*
* Component pathname : $GDKGATES/aoi222
*
.subckt aoi222  Y A0 A1 B0 B1 C0 C1 VDD_esc1 VSS_esc2

        MP6 Y C1 N$8 VDD_esc1 pmos l=0.14u w=1.61u m=1
        MN4 N$2 B1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN3 Y B0 N$2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN2 N$1 A1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.91u m=1
        MN1 Y A0 N$1 VSS_esc2 nmos l=0.14u w=0.91u m=1
        MP5 Y C0 N$8 VDD_esc1 pmos l=0.14u w=1.61u m=1
        MP4 N$8 B0 N$7 VDD_esc1 pmos l=0.14u w=1.61u m=1
        MP3 N$8 B1 N$7 VDD_esc1 pmos l=0.14u w=1.61u m=1
        MN5 Y C0 N$13 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP2 N$7 A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.82u m=1
        MP1 N$7 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.82u m=1
        MN6 N$13 C1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
.ends aoi222

*
* Component pathname : $GDKGATES/inv01
*
.subckt inv01  Y A VDD_esc1 VSS_esc2

        MP1 Y A VDD_esc1 VDD_esc1 pmos l=0.14u w=0.77u m=1
        MN1 Y A VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
.ends inv01

*
* Component pathname : $GDKGATES/ao22
*
.subckt ao22  Y A0 A1 B0 B1 VDD_esc1 VSS_esc2

        MN4 N$13 B0 N$2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP4 N$13 B1 N$6 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MN2 N$1 A1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN1 N$13 A0 N$1 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP5 Y N$13 VDD_esc1 VDD_esc1 pmos l=0.14u w=0.77u m=1
        MP3 N$13 B0 N$6 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP2 N$6 A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP1 N$6 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MN3 N$2 B1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN5 Y N$13 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
.ends ao22

*
* Component pathname : $GDKGATES/nor02ii
*
.subckt nor02ii  Y A0 A1 VDD_esc1 VSS_esc2

        MN1 N$4 A1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
        MP1 N$4 A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=0.77u m=1
        MN4 Y A0 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
        MN2 Y N$4 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
        MP4 Y N$4 N$1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP2 N$1 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
.ends nor02ii

*
* Component pathname : $GDKGATES/aoi32
*
.subckt aoi32  Y A0 A1 A2 B0 B1 VDD_esc1 VSS_esc2

        MN4 Y B0 N$6 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN3 N$5 A2 VSS_esc2 VSS_esc2 nmos l=0.14u w=1.19u m=1
        MN2 N$4 A1 N$5 VSS_esc2 nmos l=0.14u w=1.19u m=1
        MN1 Y A0 N$4 VSS_esc2 nmos l=0.14u w=1.19u m=1
        MP5 Y B0 N$11 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP4 Y B1 N$11 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP3 N$11 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP2 N$11 A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP1 N$11 A2 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MN5 N$6 B1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
.ends aoi32

*
* Component pathname : $GDKGATES/mux21
*
.subckt mux21  Y A0 A1 S0 VDD_esc1 VSS_esc2

        MN4 N$11 A1 N$3 VSS_esc2 nmos l=0.14u w=0.77u m=1
        M1 Y N$11 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.54u m=1
        MN5 N$3 S0 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        M2 Y N$11 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP5 N$11 A1 N$2 VDD_esc1 pmos l=0.14u w=1.54u m=1
        MP4 N$2 N$231 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.54u m=1
        MN3 N$1 N$231 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN2 N$11 A0 N$1 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP2 N$7 S0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.54u m=1
        MN1 N$231 S0 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.35u m=1
        MP1 N$231 S0 VDD_esc1 VDD_esc1 pmos l=0.14u w=0.77u m=1
        MP3 N$11 A0 N$7 VDD_esc1 pmos l=0.14u w=1.54u m=1
.ends mux21

*
* Component pathname : $GDKGATES/nand02
*
.subckt nand02  Y A0 A1 VDD_esc1 VSS_esc2

        MP1 Y A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.05u m=1
        MN1 Y A0 N$5 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN2 N$5 A1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP2 Y A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.05u m=1
.ends nand02

*
* Component pathname : $GDKGATES/xnor2
*
.subckt xnor2  Y A0 A1 VDD_esc1 VSS_esc2

        MP5 N$9 A1 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP4 N$9 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MN4 N$9 A0 N$8 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN3 N$3 N$9 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN2 Y A1 N$3 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MN1 Y A0 N$3 VSS_esc2 nmos l=0.14u w=0.77u m=1
        MP3 Y A1 N$1 VDD_esc1 pmos l=0.14u w=2.24u m=1
        MP2 Y N$9 VDD_esc1 VDD_esc1 pmos l=0.14u w=1.19u m=1
        MP1 N$1 A0 VDD_esc1 VDD_esc1 pmos l=0.14u w=2.24u m=1
        MN5 N$8 A1 VSS_esc2 VSS_esc2 nmos l=0.14u w=0.77u m=1
.ends xnor2

*
* Component pathname : $PYXIS_SPT/digicdesign/miniALU4
*
.subckt miniALU4  Cout Output[3] Output[2] Output[1] Output[0] Control[1]
+ Control[0] Input1[3] Input1[2] Input1[1] Input1[0] Input2[3] Input2[2]
+ Input2[1] Input2[0]

        X_ix103 nx102 nx254 nx206 Control[1] VDD VSS aoi21
        X_ix73 nx72 nx247 nx206 Control[1] VDD VSS aoi21
        X_ix43 nx42 nx240 nx206 Control[1] VDD VSS aoi21
        X_ix29 nx28 nx231 nx206 Control[1] VDD VSS aoi21
        X_ix252 nx251 Input2[3] nx102 Input1[3] nx18 Control[1] nx120 VDD
+ VSS aoi222
        X_ix245 nx244 Input2[2] nx72 Input1[2] nx18 Control[1] nx90 VDD
+ VSS aoi222
        X_ix238 nx237 Input2[1] nx42 Input1[1] nx18 Control[1] nx60 VDD
+ VSS aoi222
        X_ix241 nx240 Input1[1] VDD VSS inv01
        X_ix67 Output[1] nx237 VDD VSS inv01
        X_ix232 nx231 Input1[0] VDD VSS inv01
        X_ix37 Output[0] nx227 VDD VSS inv01
        X_ix207 nx206 Control[0] VDD VSS inv01
        X_ix202 nx200 Control[1] VDD VSS inv01
        X_ix147 Cout Control[0] nx200 Control[1] nx138 VDD VSS ao22
        X_ix19 nx18 Control[1] Control[0] VDD VSS nor02ii
        X_ix228 nx227 Input1[0] nx18 Input2[0] nx28 Control[1] nx12 VDD
+ VSS aoi222
        X_ix218 nx217 Control[0] Control[1] nx10 nx221 Input1[0] VDD VSS aoi32
        X_ix215 nx214 nx56 nx217 nx58 VDD VSS mux21
        X_ix212 nx211 nx86 nx214 nx88 VDD VSS mux21
        X_ix209 nx208 nx116 nx211 nx118 VDD VSS mux21
        X_ix235 nx234 Control[0] Control[1] VDD VSS nand02
        X_ix205 nx204 nx206 Control[1] VDD VSS nand02
        X_ix121 nx120 nx211 nx118 VDD VSS xnor2
        X_ix91 nx90 nx214 nx88 VDD VSS xnor2
        X_ix61 nx60 nx217 nx58 VDD VSS xnor2
        X_ix13 nx12 nx234 nx10 VDD VSS xnor2
        X_ix119 nx118 Input1[3] nx116 VDD VSS xnor2
        X_ix89 nx88 Input1[2] nx86 VDD VSS xnor2
        X_ix59 nx58 Input1[1] nx56 VDD VSS xnor2
        X_ix9 nx8 nx204 Input2[0] VDD VSS xnor2
        X_ix11 nx10 Input1[0] nx8 VDD VSS xnor2
        X_ix57 nx56 nx204 Input2[1] VDD VSS xnor2
        X_ix87 nx86 nx204 Input2[2] VDD VSS xnor2
        X_ix117 nx116 nx204 Input2[3] VDD VSS xnor2
        X_ix139 nx138 nx204 nx208 VDD VSS xnor2
        X_ix222 nx221 nx8 VDD VSS inv01
        X_ix255 nx254 Input1[3] VDD VSS inv01
        X_ix127 Output[3] nx251 VDD VSS inv01
        X_ix248 nx247 Input1[2] VDD VSS inv01
        X_ix97 Output[2] nx244 VDD VSS inv01
.ends miniALU4

